US06696437B1
a) 1-Phenylsulfonylpyrrole-3-carbaldehyde
A solution of 5.91 g (0.037 mol) of 2,5-dimethoxytetrahydrofuran-3-carbaldehyde, 5.80 g (0.037 mol) of phenylsulfonamide and a spatula tip of 4-toluenesulfonic acid in 50 ml of toluene was refluxed with a water trap until water no longer separated out. The reaction mixture was washed three times with water. The organic phase was dried over magnesium sulfate with addition of activated carbon and silica gel and concentrated in vacuo. 7.68 g of a brown resin were obtained.

reactant | 2,5-dimethoxytetrahydrofuran-3-carbaldehyde | 0.037 mol, 5.91 g | COC1OC(CC1C=O)OC | C7H12O4
reactant | phenylsulfonamide | 0.037 mol, 5.80 g | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | 4-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Phenylsulfonylpyrrole-3-carbaldehyde | 7.68 g | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C=C1)C=O | C11H9NO3S
